US07163938B2
F. 2-[4-(4-Methylhexahydro-1,4-diazepin-1-yl)piperidin-1-ylcarbonyl]amino-N-(5-chloropyridin-2-yl)benzamide.
A solution of N-(5-chloropyridin-2-yl)-2-(4-oxo-piperidin-1-ylcarbonyl)aminobenzamide (100 mg, 0.268 mmol) and 4-methyl(hexahydro-1,4-diazepine) (0.03 mL, 0.241 mmol) in 10% acetic acid in methanol (2.2 mL) was treated with sodium cyanoborohydride (20 mg, 0.268 mmol). After 15 h, the mixture was loaded onto a SCX column, which was pretreated with a solution of 5% acetic acid in methanol. The column was eluted with methanol followed by 2 N ammonia in methanol. The eluent was concentrated to afford title compound.

reactant | N-(5-chloropyridin-2-yl)-2-(4-oxo-piperidin-1-ylcarbonyl)aminobenzamide | 0.268 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)N1CCC(CC1)=O)=O | C18H17ClN4O3
reactant | 4-methyl(hexahydro-1,4-diazepine) | 0.241 mmol, 0.03 mL | CN1CCNCCC1 | C6H14N2
reactant | sodium cyanoborohydride | 0.268 mmol, 20 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 2.2 mL | CO | CH4O
product | 2-[4-(4-Methylhexahydro-1,4-diazepin-1-yl)piperidin-1-ylcarbonyl]amino-N-(5-chloropyridin-2-yl)benzamide | CN1CCN(CCC1)C1CCN(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1 | C24H31ClN6O2
